US07666878B2
95a) 1-Bromomethyl-4-methanesulfonyl-2-trifluoromethyl-benzene
The titled compound is prepared analogously to 1-bromomethyl-2-chloro-4-methanesulfonyl-benzene by replacing 2-chloro-4-fluorobenzaldehyde (step 90a) with 4-fluoro-2-trifluoromethylbenzaldehyde.

reactant | 1-bromomethyl-2-chloro-4-methanesulfonyl-benzene | BrCC1=C(C=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
reactant | 4-fluoro-2-trifluoromethylbenzaldehyde | FC1=CC(=C(C=O)C=C1)C(F)(F)F | C8H4F4O
product | 1-Bromomethyl-4-methanesulfonyl-2-trifluoromethyl-benzene | BrCC1=C(C=C(C=C1)S(=O)(=O)C)C(F)(F)F | C9H8BrF3O2S
